US04912231
(trans)-1-Benzoyl-4-phenyl-L-proline
A suspension of powdered (cis)-1-benzoyl-4-mesyloxy-L-proline (250 mg, 0.8 mmole) in 1,2-dichlorobenzene (3 ml) was stirred under argon and treated with phenyltrimethylsilane (1 ml, 5.8 mmole) followed by aluminum trichloride (383 mg, 2.87 mmole). The reaction was stirred overnight and an aliquot was removed, quenched into 1N HCl and extracted with ethyl acetate. Analysis of the organic layer by tlc showed the presence of:

reactant | (cis)-1-benzoyl-4-mesyloxy-L-proline | 0.8 mmole, 250 mg | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C | C13H15NO6S
reactant | phenyltrimethylsilane | 5.8 mmole, 1 ml | C1(=CC=CC=C1)[Si](C)(C)C | C9H14Si
reactant | aluminum trichloride | 2.87 mmole, 383 mg | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,2-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | (trans)-1-Benzoyl-4-phenyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)C1=CC=CC=C1 | C18H17NO3
